US09062092B2
Compound 26a. (S)-1-{(S)-2-[(S)-2-(tert-Butoxycarbonyl-methyl-amino)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
A solution of 1d (1.08 g, 2.5 mmol) in dichloromethane (35 mL) was stirred at 0° C. under nitrogen. Trimethylsilyl trifluoromethanesulfonate (682 mg, 0.55 mL, 3.1 mmol) was added and the reaction mixture was stirred at 0° C. for 45 min. N,N-diisopropylethylamine (1.29 g, 1.73 mL, 10 mmol) was added and the solvent was evaporated to afford crude (S)-1-((S)-2-amino-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (2.5 mmol), which was used in the next step. A solution of crude (S)-1-((S)-2-amino-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (2.5 mmol) in acetonitrile (30 mL) was stirred at 0° C. under nitrogen. (S)-2-(tert-Butoxycarbonyl-methyl-amino)-3-methyl-butyric acid (635 mg, 2.75 mmol, obtained from Sigma-Aldrich Inc.) and N,N-diisopropylethylamine (1.29 g, 1.7 mL, 10 mmol) was added followed by 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (1.33 g, 3.5 mmol) and the reaction mixture was stirred at room temperature for 18 h. The solvent was evaporated and the residue was dissolved in ethyl acetate. The solution was washed with water, hydrochloric acid (2 M), water, saturated sodium hydrogen carbonate solution, water and brine, dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 1:1 to 0:1 to afford the title compound (756 mg, 55%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 0.88 (d, J=6.5 Hz, 3H), 0.97 (d, J=6.7 Hz, 3H), 1.28 (d, J=6.7 Hz, 3H), 1.49-1.54 (m, 9H), 1.65-2.30 (m, 5H), 2.82 (s, 3H), 2.82-2.94 (m, 1H), 3.62-4.18 (m, 3H), 4.30-4.45 (m, 1H), 4.73 (d, J=12.0 Hz, 1H), 4.95 (d, J=12.0 Hz, 1H), 5.29-5.39 (m, 1H), 6.62-6.77 (m, 1H). LCMS (m/z) 545.2/547.1 [M+H], Tr=3.02 min.

reactant | (S)-1-((S)-2-amino-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 2.5 mmol | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)N)=O)(Cl)Cl | C10H16Cl3N3O3
reactant | (S)-2-(tert-Butoxycarbonyl-methyl-amino)-3-methyl-butyric acid | 2.75 mmol, 635 mg | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)C(C)C)C | C11H21NO4
reactant | N,N-diisopropylethylamine | 10 mmol, 1.7 mL, 1.29 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 3.5 mmol, 1.33 g | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | (S)-1-{(S)-2-[(S)-2-(tert-Butoxycarbonyl-methyl-amino)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 756 mg, 55% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)N(C)C(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C21H35Cl3N4O6
